US04855480
Dry hydrogen chloride gas was passed through a stirred solution of 2-(2-chlorobenzylaminooxymethyl)-2-methylpropanoic acid (2.0 grams; 0.01 mole) in absolute ethanol (100 mL) at ambient temperature for two minutes. The reaction mixture was stirred overnight under a nitrogen atmosphere. The reaction mixture was concentrated under reduced pressure. The residue was purified by passing it through a silica gel column, eluting first with methylene chloride (200 mL) and then with 95:5 methylene chloride:methanol. Appropriate fractions were combined and then concentrated under reduced pressure to afford 0.45 grams of ethyl 2-(2-chlorobenzylaminooxymethyl)-2-methylpropanoate hydrochloride as a colorless gum.

reactant | hydrogen chloride | Cl | ClH
reactant | 2-(2-chlorobenzylaminooxymethyl)-2-methylpropanoic acid | 0.01 mole, 2.0 grams | ClC1=C(CNOCC(C(=O)O)(C)C)C=CC=C1 | C12H16ClNO3
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | ethyl 2-(2-chlorobenzylaminooxymethyl)-2-methylpropanoate hydrochloride | 0.45 grams | Cl.ClC1=C(CNOCC(C(=O)OCC)(C)C)C=CC=C1 | InChI=1S/C14H20ClNO3.ClH/c1-4-18-13(17)14(2,3)10-19-16-9-11-7-5-6-8-12(11)15;/h5-8,16H,4,9-10H2,1-3H3;1H
